simulator lang=spectre
global 0

ahdl_include "./dut/gain_amp_fixed.va"

parameters vdd=0.9 gain=4.75
Vinp (vin_p 0) vsource type=pwl wave=[0 0.47 12n 0.47 12.1n 0.53 30n 0.53 30.1n 0.41 55n 0.41]
Vinn (vin_n 0) vsource type=pwl wave=[0 0.43 12n 0.43 12.1n 0.37 30n 0.37 30.1n 0.49 55n 0.49]
XDUT (vin_p vin_n vout_p vout_n) gain_amp_fixed vdd=vdd ACTUAL_GAIN=gain

simulatorOptions options evas_profile=balanced

tran tran stop=55n maxstep=100p
save vin_p vin_n vout_p vout_n
